* /Users/gabrielmartinez/Documents/Github/Hardware-underwater/Draft2.asc
XU1 V+2 V-2 VDD VSS Out2 FLG2 OPA55x
XU2 V+1 V-1 VDD VSS Out1 FLG1 OPA551
V1 VDD 0 24
V2 0 VSS 24
V3 N002 0 SINE(0 1 40k)
R1 V-2 N002 2.49k
C2 Out2 V-2 4.7p
R2 Out2 V-2 68k
R3 Out2 V-1 33k
C3 Out1 V-1 10p
R4 Out1 V-1 33k
R5 V+1 0 15k
V4 N001 0 0
R6 V+2 N001 2.49k
R7 Out1 V+2 68k
C1 N001 0 100n
RFLG1 FLG1 0 1Meg
RFLG2 FLG2 0 1Meg
.tran 10m
.lib OPA55x.LIB
.lib OPA551.LIB
.options ITL4=500
.backanno
.end
* Here what it is important to see is the V(Out1)-V(Out2)